US07262212B2
A mixture of tert-butyl 4-[2-chloro-4-(tetrahydropyran-2-yloxy)phenyl]piperazine-1-carboxylate (4.73 g, 11.9 mmol) prepared in Reference Example 193 and a catalytic amount of pyridinium p-toluene sulfonate in ethanol (50 ml) was stirred at 70° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and methylene chloride and saturated sodium hydrogencarbonate aqueous solution were added to the residue, which was stirred for a while. The resulting precipitates were collected by filtration, and dried in vacuo to afford tert-butyl 4-(2-chloro-4-hydroxyphenyl)piperazine-1-carboxylate (2.68 g, yield 72%) as a white powder.

reactant | tert-butyl 4-[2-chloro-4-(tetrahydropyran-2-yloxy)phenyl]piperazine-1-carboxylate | 11.9 mmol, 4.73 g | ClC1=C(C=CC(=C1)OC1OCCCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H29ClN2O4
reactant | pyridinium p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 4-(2-chloro-4-hydroxyphenyl)piperazine-1-carboxylate | 2.68 g, yield 72% | ClC1=C(C=CC(=C1)O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21ClN2O3
